US07989444B2
Preparation 52: 1,1-dimethylethyl 6-bromo-7-hydroxy-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
Bromination of 1,1-dimethylethyl 7-hydroxy-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (71 mg) was performed with NBS (41 mg) in DCM (2.2 ml) and SiO2 (426 mg) at −15° C. under nitrogen. After 15 minutes SiO2 was filtered off and the solvent was evaporated under reduced pressure. The crude was purified on silica gel (ethyl acetate/petroleum ether, 1/9) obtaining the title compound as a yellow solid (72 mg).

reactant | 1,1-dimethylethyl 7-hydroxy-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 71 mg | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1[N+](=O)[O-] | C15H20N2O5
reactant | NBS | 41 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 2.2 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 6-bromo-7-hydroxy-8-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 72 mg | BrC1=C(C(=CC=2CCN(CCC21)C(=O)OC(C)(C)C)[N+](=O)[O-])O | C15H19BrN2O5
